### ISSUE TITLE
Triangle Graph Four-Coloring Proof in Lean 4

### ISSUE THREAD

**Issue by Hee-San** [Hee-San/Four-color#1]
# Issue: Triangle Graph Four-Coloring Proof in Lean 4

## Overview
Implement and prove the four-colorability of triangle graph (K₃) in Lean 4 using Docker environment. This is the MVP for the Four Color Theorem project.

## Environment Setup
- **Platform**: Docker container
- **Language**: Lean 4 with mathlib4
- **Repository**: Already created (empty)
- **Target**: Complete proof of triangle graph four-colorability

### Dockerfile to create:
```dockerfile
FROM ubuntu:22.04

# Install system dependencies
RUN apt-get update && apt-get install -y \
    curl \
    git \
    build-essential \
    && rm -rf /var/lib/apt/lists/*

# Install elan (Lean version manager)
RUN curl https://raw.githubusercontent.com/leanprover/elan/master/elan-init.sh -sSf | sh -s -- -y
ENV PATH="/root/.elan/bin:$PATH"

# Set working directory
WORKDIR /workspace

# Copy project files
COPY . .

# Build project
RUN lake exe cache get && lake build
```

### Docker commands to use:
```bash
# Build the container
docker build -t four-color-lean .

# Run with volume mount for development
docker run -it -v $(pwd):/workspace four-color-lean bash

# Or run specific lake commands
docker run -v $(pwd):/workspace four-color-lean lake build
```

## Project Structure to Implement

```
four-color-theorem-lean4/
├── Dockerfile
├── lakefile.lean
├── FourColor.lean
├── FourColor/
│   ├── Basic/
│   │   ├── Graph.lean
│   │   └── Coloring.lean
│   └── Examples/
│       └── Triangle.lean
├── test/
│   └── TriangleTest.lean
└── README.md
```

### 1. lakefile.lean
```lean
import Lake
open Lake DSL

package «fourcolor» where
  leanOptions := #[
    ⟨`pp.unicode.fun, true⟩,
    ⟨`pp.proofs.withType, false⟩
  ]

require mathlib from git
  "https://github.com/leanprover-community/mathlib4.git"

@[default_target]
lean_lib «FourColor» where
```

### 2. FourColor/Basic/Graph.lean
```lean
import Mathlib.Data.Finset.Basic
import Mathlib.Data.Fintype.Basic
import Mathlib.Logic.Function.Basic

/-- A simple graph on vertex type V -/
structure SimpleGraph (V : Type*) where
  /-- The adjacency relation -/
  adj : V → V → Prop
  /-- The adjacency relation is symmetric -/
  symm : ∀ {u v : V}, adj u v → adj v u
  /-- No self-loops -/
  irrefl : ∀ {v : V}, ¬adj v v

namespace SimpleGraph

variable {V : Type*} (G : SimpleGraph V)

/-- Two vertices are adjacent -/
def Adjacent (u v : V) : Prop := G.adj u v

/-- The degree of a vertex -/
def degree [Fintype V] (v : V) : ℕ := 
  (Finset.univ.filter (fun u => G.adj v u)).card

end SimpleGraph
```

### 3. FourColor/Basic/Coloring.lean
```lean
import FourColor.Basic.Graph

/-- The four colors for the four color theorem -/
inductive Color
  | red
  | blue  
  | green
  | yellow
deriving DecidableEq, Fintype

/-- A coloring of a graph -/
def Coloring (V : Type*) := V → Color

/-- A proper coloring: adjacent vertices have different colors -/
def ProperColoring {V : Type*} (G : SimpleGraph V) (c : Coloring V) : Prop :=
  ∀ {u v : V}, G.adj u v → c u ≠ c v

/-- A graph is four-colorable -/
def FourColorable {V : Type*} (G : SimpleGraph V) : Prop :=
  ∃ c : Coloring V, ProperColoring G c
```

### 4. FourColor/Examples/Triangle.lean (WITH COMPLETE PROOF)
```lean
import FourColor.Basic.Graph
import FourColor.Basic.Coloring

/-- The triangle graph K₃ -/
def triangleGraph : SimpleGraph (Fin 3) where
  adj := fun u v => u ≠ v
  symm := fun h => h.symm
  irrefl := fun h => h rfl

/-- A specific coloring of the triangle -/
def triangleColoring : Coloring (Fin 3) := fun i =>
  match i with
  | 0 => Color.red
  | 1 => Color.blue  
  | 2 => Color.green

/-- The triangle coloring is proper -/
theorem triangleColoring_proper : ProperColoring triangleGraph triangleColoring := by
  -- TODO: Complete this proof
  -- Hint: Use `intros u v h_adj` then case analysis on u and v
  -- Each case should show c u ≠ c v by simp
  sorry

/-- The triangle is four-colorable -/
theorem triangle_four_colorable : FourColorable triangleGraph := by
  use triangleColoring
  exact triangleColoring_proper
```

### 5. FourColor.lean
```lean
import FourColor.Basic.Graph
import FourColor.Basic.Coloring
import FourColor.Examples.Triangle

-- Export main definitions
export SimpleGraph (Adjacent degree)
export Color (red blue green yellow)
export Coloring
export ProperColoring FourColorable

-- Export main theorem
export triangle_four_colorable
```

### 6. test/TriangleTest.lean
```lean
import FourColor.Examples.Triangle

-- Verification tests
#check triangleGraph
#check triangleColoring  
#check triangle_four_colorable

-- Computational tests
#eval triangleColoring 0  -- Should output: Color.red
#eval triangleColoring 1  -- Should output: Color.blue
#eval triangleColoring 2  -- Should output: Color.green

-- Test adjacency
example : triangleGraph.adj 0 1 := by simp [triangleGraph]
example : triangleGraph.adj 1 2 := by simp [triangleGraph]
example : triangleGraph.adj 2 0 := by simp [triangleGraph]
example : ¬triangleGraph.adj 0 0 := by simp [triangleGraph]
```

## Main Task: Complete the Proof

**FOCUS**: The primary task is to complete the `triangleColoring_proper` theorem in `FourColor/Examples/Triangle.lean`.

### Proof Strategy:
1. Use `intros u v h_adj` to introduce adjacency hypothesis
2. Use case analysis on `u` and `v` (both are `Fin 3`)
3. For each case, show that `triangleColoring u ≠ triangleColoring v`
4. Use simplification and definitional unfolding

### Expected Proof Structure:
```lean
theorem triangleColoring_proper : ProperColoring triangleGraph triangleColoring := by
  intros u v h_adj
  -- h_adj : triangleGraph.adj u v, which means u ≠ v
  -- Need to show: triangleColoring u ≠ triangleColoring v
  
  -- Case analysis on u and v
  fin_cases u <;> fin_cases v <;> 
  simp [triangleColoring, h_adj] <;>
  norm_num
```

### Must Pass:
1. **Docker builds successfully** from Dockerfile
2. **All files compile** without errors (`lake build`)
3. **Triangle proof completes** - no `sorry` statements
4. **Tests pass** - all `#eval` and examples work
5. **Main theorem verified** - `triangle_four_colorable` is proven

### Expected Output:
```bash
$ docker run -v $(pwd):/workspace four-color-lean lake build
# Should show successful compilation

$ docker run -v $(pwd):/workspace four-color-lean lean test/TriangleTest.lean
# Should show all tests pass with expected outputs
```

## Deliverables

1. **Complete project structure** with all files
2. **Working Dockerfile** and build instructions
3. **Finished proof** of triangle four-colorability
4. **Verification tests** demonstrating correctness
5. **README.md** with usage instructions
6. **README_JP.md** with usage instructions in Japanese

## Notes for Claude Code

- **Use docker throughout** - don't install Lean locally
- **Test frequently** - run `lake build` after each file
- **Focus on the proof** - the triangleColoring_proper theorem is the core task
- **Verify with tests** - make sure #eval commands work
- **Document any issues** - especially Docker or Lean-specific problems

This is the foundation for a larger four color theorem project, so code quality and clarity are important.
